US06130241
3-n-Octyl-3-azabicyclo[3.1.0]hexane-2,4-dione
Sodium hydride (1.48 g, 60% in oil) was added to a stirred solution of 3-azabicyclo[3.1.0]hexane-2,4-dione (4.0 g) and 1-iodooctane (8.88 g) in dry dimethylformamide (70 ml) under a nitrogen atmosphere at 0° C. The reaction mixture was stirred at 0° C. for a further 30 minutes and then at room temperature for 16 hours. The mixture was diluted with water (100 ml) and then extracted with ether (150 ml). The organic extract was washed with water (2×70 ml), dried (MgSO4) and evaporated in vacuo to leave a brown oil. The oil was purified by distillation in vacuo (boiling point 146-147° C. @ 0.1 mmHg) to give the title compound as a pale yellow oil.

reactant | Sodium hydride | 1.48 g | [H-].[Na+]
reactant | 3-azabicyclo[3.1.0]hexane-2,4-dione | 4.0 g | C12C(NC(C2C1)=O)=O | C5H5NO2
reactant | 1-iodooctane | 8.88 g | ICCCCCCCC | C8H17I
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 3-n-Octyl-3-azabicyclo[3.1.0]hexane-2,4-dione | C(CCCCCCC)N1C(C2CC2C1=O)=O | C13H21NO2
